US06949563B2
To a stirred solution of 4-trifluoromethoxyaniline (7.8 g, 44.5 mmol) in toluene (50 mL) under nitrogen was added trimethylaluminum (2M in toluene, 26.7 mL, 53.4 mmol). The mixture was stirred at RT for 16 h. Methyl 3-amino-2-thiophenecarboxylate (7 g, 44.5 mmol) was added and the resulting solution was stirred at reflux (oil bath temperature: 130° C.) under nitrogen for 24 h. After cooling to RT, saturated sodium bicarbonate solution (100 mL) was added dropwise with caution and the mixture was stirred at RT for 30 min. The product was extracted into dichloromethane (3×100 mL), and the organic layer was dried over Na2SO4, and concentrated to yield a thick oil, which was then triturated with a mixture of hexane/ethyl acetate to afford N-(4-trifluoromethoxyphenyl) 3-Aminothiophene-2-carboxamide as a brown solid. 1H-NMR (400 MHz/CD3OD): δ=6.65 (d, J=5.6 Hz, 1H), 7.23 (d, J=8.4 Hz, 2H), 7.39 (d, J=5.2 Hz, 1H), 7.67 (d, J=9.2 Hz, 2H). MS (ES+): 303 [MH+].

reactant | 4-trifluoromethoxyaniline | 44.5 mmol, 7.8 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | trimethylaluminum | 53.4 mmol, 2M, 26.7 mL | C[Al](C)C
reactant | Methyl 3-amino-2-thiophenecarboxylate | 44.5 mmol, 7 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-trifluoromethoxyphenyl) 3-Aminothiophene-2-carboxamide | FC(OC1=CC=C(C=C1)NC(=O)C=1SC=CC1N)(F)F | C12H9F3N2O2S
